US04554020
860.5 grams of calcium gluconate monohydydrate and 244 grams of technical grade boric acid were added to 1100 grams of water at room temperature. The resultant mixture was stirred and warmed to a temperature of about 50° C. until a dark brown solution was obtained. The solution was allowed to cool to room temperature. The solution can be used as is or the water can be evaporated to provide the calcium borogluconate as a brownish solid.

reactant | calcium gluconate | 860.5 grams | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-].[Ca+2].O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-]
reactant | boric acid | B(O)(O)O | BH3O3
solvent | water | 1100 grams | O | H2O
product | calcium borogluconate | B1(OC(C(O1)C(C(C(=O)[O-])O)O)CO)O.B1(OC(C(O1)C(C(C(=O)[O-])O)O)CO)O.[Ca+2] | InChI=1S/2C6H11BO8.Ca/c2*8-1-2-5(15-7(13)14-2)3(9)4(10)6(11)12;/h2*2-5,8-10,13H,1H2,(H,11,12);/q;;+2/p-2
